US06921763B2
C. N1-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide acetate
A mixture of tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (0.10 g, 0.228 mmol) in dichloromethane (2 mL) and pyridine (1 mL) was treated with 2-fluoro-4-trifluoromethylbenzoyl chloride (0.057 g, 0.251 mmol) then stirred for 1 hour. The solvents were evaporated then the residue was treated with trifluoroacetic acid (1 mL) in dichloromethane (2 mL). The mixture was stirred for 1 hour at ambient temperature then the solvents were evaporated under reduced pressure and the residue purified by RP preparative HPLC on a C18 column using acetonitrile-0.05 M ammonium acetate as a mobile phase. Lyophilization afforded the pure title compound: 1H NMR (DMSO-d6, 400 MHz) δ 9.90 (d, 1H), 8.31 (d, 1H), 8.24 (s, 1H), 7.99 (t, 1H), 7.89 (d, 1H), 7.75 (d, 1H), 7.33 (s, 1H), 7.30 (d, 1H), 4.78 (m, 1H), 3.94 (s, 3H), 3.10 (m, 2H), 2.69 (m, 2H), 2.08 (m, 2H), 1.85-2.0 (m, 5H); RP-HPLC (Hypersil HS C18Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 17.33 min; MS: MH+ 530.2.

reactant | tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.228 mmol, 0.10 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
reactant | 2-fluoro-4-trifluoromethylbenzoyl chloride | 0.251 mmol, 0.057 g | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N1-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-2-fluoro-4-(trifluoromethyl)benzamide acetate | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C2CCNCC2 | InChI=1S/C25H23F4N7O2.C2H4O2/c1-38-19-10-13(2-5-18(19)34-24(37)16-4-3-14(11-17(16)26)25(27,28)29)21-20-22(30)32-12-33-23(20)36(35-21)15-6-8-31-9-7-15;1-2(3)4/h2-5,10-12,15,31H,6-9H2,1H3,(H,34,37)(H2,30,32,33);1H3,(H,3,4)
